US07285557B2
1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene
A mixture of potassium carbonate (27.6 g, 0.2 mol), 2-methoxy-4-nitrophenol (16.9 g, 0.1 mol), 1,2-dibromoethane (94 g, 0.50 mol) and acetonitrile was refluxed for 2 days, concentrated, extracted in ethyl acetate with water three times, dried, filtered, concentrated to a white powder, triturated with ether, filtered, then concentrated to give a pale yellow powder (15.8 g, 58%). 1H NMR (300 MHz, DMSO-d6) δ 7.90 (d, 1H), 7.80 (s, 1H), 7.20 (d, 1H), 4.55 (t, 2H), 3.80 (s, 3H), 3.75 (t, 2H) ppm.

reactant | potassium carbonate | 0.2 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxy-4-nitrophenol | 0.1 mol, 16.9 g | COC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO4
reactant | 1,2-dibromoethane | 0.50 mol, 94 g | BrCCBr | C2H4Br2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(2-bromoethoxy)-2-methoxy-4-nitrobenzene | 15.8 g, 58% | BrCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H10BrNO4
